US07723286B2
a) 1-methyl-3-oxo-3-(2,6,6-trimethyl-3-cyclohexen-1-yl)propyl 4-vinylbenzoate
A solution of DCC (3.60 g, 17.5 mmol) in 10 ml of CH2Cl2 was added to an ice-cold solution of 4-vinylbenzoic acid (2.35 g, 15.9 mmol), DMAP (1.55 g, 12.7 mmol) and 3-hydroxy-1-(2,6,6-trimethyl-3-cyclohexen-1-yl)-1-butanone (4.00 g, 19.1 mmol) in 30 ml of CH2Cl2. The reaction mixture was stirred at room temperature for 5 days. The precipitate was filtered off and the filtrate taken up in CH2Cl2, washed twice with 10% aqueous HCl, saturated aqueous Na2CO3 and saturated aqueous NaCl. The organic phases were dried over Na2SO4 and concentrated. Flash-chromatography over SiO2 (heptane/ether 9:1) gave 4.02 g of the desired compound (yield: 74%).

reactant | DCC | 17.5 mmol, 3.60 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-vinylbenzoic acid | 15.9 mmol, 2.35 g | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
reactant | 3-hydroxy-1-(2,6,6-trimethyl-3-cyclohexen-1-yl)-1-butanone | 19.1 mmol, 4.00 g | OC(CC(=O)C1C(C=CCC1(C)C)C)C | C13H22O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 12.7 mmol, 1.55 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-oxo-3-(2,6,6-trimethyl-3-cyclohexen-1-yl)propyl 4-vinylbenzoate | 4.02 g, yield: 74% | C(=C)C1=CC=C(C(=O)OC(CC(C2C(C=CCC2(C)C)C)=O)C)C=C1 | C22H28O3
